US08748612B2
To a solution of methyl 2-(2,4-dinitrophenyl)-3,3,3-trifluoro-2-hydroxypropanoate (1.3 g, 4.01 mmol) in ethyl acetate (18 mL) was successively added pH3HCl (5.2 mL), then PdC (350 mg) in ethyl acetate (3 mL). The mixture was vigorously stirred overnight under H2 (1 atm). The catalyst was filtered off through Celite and the filtrate was concentrated to dryness. The crude residue obtained was partitioned between DCM (25 mL) and aqueous saturated NaHCO3 (15 mL). The organic phase was separated and the aqueous phase was extracted DCM (2×25 mL). The organic phases were combined, dried over sodium sulfate, filtered, and concentrated. The crude residue obtained was purified by silica gel column chromatography using a gradient 50-100% ethyl acetate in hexanes to give 6-amino-3-hydroxy-3-(trifluoromethyl)indolin-2-one (921 mg, 99%)

reactant | methyl 2-(2,4-dinitrophenyl)-3,3,3-trifluoro-2-hydroxypropanoate | 4.01 mmol, 1.3 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC)(C(F)(F)F)O | C10H7F3N2O7
solvent | ethyl acetate | 18 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 6-amino-3-hydroxy-3-(trifluoromethyl)indolin-2-one | 921 mg, 99% | NC1=CC=C2C(C(NC2=C1)=O)(C(F)(F)F)O | C9H7F3N2O2
